US08975398B2
tert-butyl 4-(4-(1-(pyridazin-3-yl)piperidine-4-carboxamido)phenyl)piperidine-1-carboxylate
The title compound was prepared as described in Example 147B, tert-butyl 4-(4-(1-(6-chloropyridazin-3-yl)piperidine-4-carboxamido)phenyl)piperidine-1-carboxylate for 4-(4-(1-(6-chloropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate.

reactant | tert-butyl 4-(4-(1-(6-chloropyridazin-3-yl)piperidine-4-carboxamido)phenyl)piperidine-1-carboxylate | ClC1=CC=C(N=N1)N1CCC(CC1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C26H34ClN5O3
reactant | 4-(4-(1-(6-chloropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate | ClC1=CC=C(N=N1)N1CC(C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)[O-]
product | tert-butyl 4-(4-(1-(pyridazin-3-yl)piperidine-4-carboxamido)phenyl)piperidine-1-carboxylate | N1=NC(=CC=C1)N1CCC(CC1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C26H35N5O3
